US06043366
(8-Cyclodecyl-4-oxo-1-phenyl-1,3,8-triaza-spiro[4,5]dec-3-yl)-acetic acid methyl ester hydrochloride (1:1)
The title compound, white solid, m. p. 178° C. and MS: m/e=442.5 (M+H+) was prepared in accordance with the general method of example 24 from 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride and bromomethyl acetate.

reactant | 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1
reactant | bromomethyl acetate | C(C)(=O)OCBr | C3H5BrO2
product | (8-Cyclodecyl-4-oxo-1-phenyl-1,3,8-triaza-spiro[4,5]dec-3-yl)-acetic acid methyl ester hydrochloride | Cl.COC(CN1CN(C2(C1=O)CCN(CC2)C2CCCCCCCCC2)C2=CC=CC=C2)=O | InChI=1S/C26H39N3O3.ClH/c1-32-24(30)20-28-21-29(23-14-10-7-11-15-23)26(25(28)31)16-18-27(19-17-26)22-12-8-5-3-2-4-6-9-13-22;/h7,10-11,14-15,22H,2-6,8-9,12-13,16-21H2,1H3;1H
